US04954498
2-(4-Pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]-quinolin-6-one.
2.4 g. (7.7 mmole) 6-isonicotinoylamino-7-nitro1,2,3,4-tetrahydroquinolin-2-one were hydrogenated in 100 ml. methanol in the presence of 0.4 g. 10% palladium on charcoal. After filtering off the catalyst and evaporating the filtrate, the residue was boiled for 24 hours with 80 ml. ethanol and 15 ml. concentrated hydrochloric acid. The evaporation residue was treated with water and ammonia, filtered off with suction and recrystallised from methanol to give 1.3 g. (62% of theory) of the title compound; m.p. above 300° C.

reactant | 6-isonicotinoylamino-7-nitro1,2,3,4-tetrahydroquinolin-2-one | 7.7 mmole | C(C1=CC=NC=C1)(=O)NC=1C=C2CCC(NC2=CC1[N+](=O)[O-])=O | C15H12N4O4
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-(4-Pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]-quinolin-6-one | N1=CC=C(C=C1)C1=NC=2C(=CC=3CCC(NC3C2)=O)N1 | C15H12N4O
